US04880808
A mixture of 5 parts of N-(4-chlorobutyl)-N-(4-fluorophenyl)-3-pyridinecarboxamide, 2.77 parts of (1,1-dimethylethyl) 2-methyl-1-piperazinecarboxylate, 1.58 parts of sodium carbonate and 94 parts of N,N-dimethylformamide was stirred for 48 hours at 90° C. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted twice with dichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The first fraction was collected and the eluent was evaporated, yielding 3.5 parts (57.2%) of (1,1-dimethylethyl) 4-[4-[(4-fluorophenyl)(3-pyridinylcarbonyl)amino]butyl]-2-methyl-1-piperazinecarboxylate as a residue (int. 43).

reactant | N-(4-chlorobutyl)-N-(4-fluorophenyl)-3-pyridinecarboxamide | ClCCCCN(C(=O)C=1C=NC=CC1)C1=CC=C(C=C1)F | C16H16ClFN2O
reactant | (1,1-dimethylethyl) 2-methyl-1-piperazinecarboxylate | CC1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (1,1-dimethylethyl) 4-[4-[(4-fluorophenyl)(3-pyridinylcarbonyl)amino]butyl]-2-methyl-1-piperazinecarboxylate | 57.2% | FC1=CC=C(C=C1)N(CCCCN1CC(N(CC1)C(=O)OC(C)(C)C)C)C(=O)C=1C=NC=CC1 | C26H35FN4O3
